US05455253
3-Cyano-2-methyl-4-(3-nitrophenyl)-4, 6,7,8-tetrahydro-5(1H)quinolone.
3-Aminocrotonitrile (0.91 g), 1,3-cyclohexanedione (1.25 g), and 3-nitrobenzaldehyde (1.70 g) were combined in ethanol (100 mL) and heated at reflux for 7 hours. Removal of solvent and chromatography (ethyl acetate) gave the title compound (2.40 g) as a yellow solid; mp 214°-216° C. NMR: 1.73-2.00 (m,2, CH2), 2.08 (s,3, CH3), 2.13-2.31 (m,2, CH2), 2.41-2.63 (m,2, CH2), 4.66 (s,1, CH), 7.61 (m,1, Ar), 7.68 (dd,1, J=7.7, 1.1 Ar), 7.98 (s,1, Ar), 8.07 (m,1, Ar), 9.66 (s,1, NH); MS: m/z=309(M). Analysis for C17H15N3O3 : Calculated C, 66.01; H, 4.89; N, 13.58; Found: C, 65.78; H, 4.99; N, 13.45.

reactant | 3-Aminocrotonitrile | 0.91 g | C/C(=C\C#N)/N | C4H6N2
reactant | 1,3-cyclohexanedione | 1.25 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-nitrobenzaldehyde | 1.70 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Cyano-2-methyl-4-(3-nitrophenyl)-4, 6,7,8-tetrahydro-5(1H)quinolone | 2.40 g | C(#N)C1=C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C17H15N3O3
